US05589478
To a solution of N-{6-chloro-2-(2-pyrimidyl)-5-(2-methoxyphenoxy)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide (1.05 g) and 2-(4-acetylphenoxy)ethanol (728 mg) in dimethylacetamide (12 ml) is added sodium hydride (240 mg) under ice-cooling, and the mixture is stirred at room temperature overnight. The reaction solution is acidified with 10% hydrochloric acid, and extracted with ethyl acetate. The extract is washed, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform/acetonitrile=2:1), and recrystallized from ethyl acetate/n-hexane to give N-[6-{2-(4-acetylphenoxy)ethoxy}-2-(2-pyrimidyl)-5-(2-methoxyphenoxy)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide (482 mg) as crystals.

reactant | N-{6-chloro-2-(2-pyrimidyl)-5-(2-methoxyphenoxy)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | 1.05 g | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)OC1=C(C=CC=C1)OC | C25H24ClN5O4S
reactant | 2-(4-acetylphenoxy)ethanol | 728 mg | C(C)(=O)C1=CC=C(OCCO)C=C1 | C10H12O3
reactant | sodium hydride | 240 mg | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylacetamide | 12 ml | CC(=O)N(C)C | C4H9NO
product | N-[6-{2-(4-acetylphenoxy)ethoxy}-2-(2-pyrimidyl)-5-(2-methoxyphenoxy)pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | 482 mg | C(C)(=O)C1=CC=C(OCCOC2=C(C(=NC(=N2)C2=NC=CC=N2)NS(=O)(=O)C2=CC=C(C=C2)C(C)(C)C)OC2=C(C=CC=C2)OC)C=C1 | C35H35N5O7S
